US08471005B2
2-(4-{4-[7-(3-tert-Butylsulfamoyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-acetamide was prepared from N-tert-butyl-3-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide and 2-[4-(4-amino-phenyl)-piperidin-1-yl]-acetamide in an analogous manner to Example 1052a. Product isolated as a red foam (68 mg, 70%). LCMS (m/e) 562 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.85 (s, 1H), 8.73 (s, 1H), 8.24 (d, 1H, J=8.0 Hz), 7.87 (d, 1H, J=7.9 Hz), 7.62-7.54 (m, 3H), 7.29 (d, 2H, J=8.4 Hz), 7.17 (bs, 1H), 7.07 (d, 1H, J=4.8 Hz), 6.98 (s, 1H), 6.85 (d, 1H, J=4.8 Hz), 5.65 (bs, 1H), 4.72 (s, 1H), 3.08-2.95 (m, 4H), 2.59-2.48 (m, 1H), 2.37-2.25 (m, 2H), 1.94-1.73 (m, 4H).

reactant | N-tert-butyl-3-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)O | C16H18N4O3S
reactant | 2-[4-(4-amino-phenyl)-piperidin-1-yl]-acetamide | NC1=CC=C(C=C1)C1CCN(CC1)CC(=O)N | C13H19N3O
product | 2-(4-{4-[7-(3-tert-Butylsulfamoyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidin-1-yl)-acetamide | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)C2CCN(CC2)CC(=O)N | C29H35N7O3S
